US08791132B2
To a degassed solution of 3,6-dimethyl-6,7,8,9-tetrahydro-5H-1,6,9-triaza-fluorene (201 mg, 1.0 mmol), 1-(2-bromo-1-methyl-vinyl)-4-fluoro-benzene (279 mg, 1.3 mmol), potassium phosphate (530 mg, 2.5 mmol) in DMF (4 mL), L-proline (28 mg, 0.25 mmol) and cuprous iodide (47 mg, 0.25 mmol) were added. The reaction mixture was stirred at 120° C. for 8 h. The reaction mixture was cooled to RT, diluted with water (20 mL) and extracted with EtOAc (4×20 mL). The organic layer was washed with water (5×20 mL), dried over anhydrous sodium sulfate and evaporated to afford crude material, which was purified by silica gel flash chromatography to yield 9-[2-(4-fluoro-phenyl)-propenyl]-3,6-dimethyl-6,7,8,9-tetrahydro-5H-1,6,9-triaza-fluorene. 1H NMR (CDCl3, freebase) δ (ppm): 8.1 (s, 1H), 7.57 (m, 3H), 7.07 (t, 2H), 6.92 (s, 1H), 3.62 (s, 2H), 2.8 (s, 4H), 2.6 (s, 3H), 2.4 (s, 3H), 2.0 (s, 3H).

reactant | 3,6-dimethyl-6,7,8,9-tetrahydro-5H-1,6,9-triaza-fluorene | 1.0 mmol, 201 mg | CC=1C=NC=2NC=3CCN(CC3C2C1)C | C12H15N3
reactant | 1-(2-bromo-1-methyl-vinyl)-4-fluoro-benzene | 1.3 mmol, 279 mg | BrC=C(C)C1=CC=C(C=C1)F | C9H8BrF
reactant | potassium phosphate | 2.5 mmol, 530 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | L-proline | 0.25 mmol, 28 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 9-[2-(4-fluoro-phenyl)-propenyl]-3,6-dimethyl-6,7,8,9-tetrahydro-5H-1,6,9-triaza-fluorene | FC1=CC=C(C=C1)C(=CN1C=2CCN(CC2C=2C=C(C=NC12)C)C)C | C21H22FN3
